US07211545B2
Into a mixture of 8.00 g of sodium hydride (60% in oil) and 100 ml of 1,4-dioxane, 32.0 g of ethyl malonate were added dropwise at 60° C. , further 14.6 g of cuprous bromide and 19.3 g of 1-bromo-2,6-difluorobenzene were added subsequently, and then refluxed for 16 hours under heating. To the reaction mixture, conc. hydrochloric acid was added under ice-cooling, and then tert-butyl methyl ether and water were added. The separated organic layer was washed with dil. hydrochloric acid and water subsequently, dried over sodium sulfate and concentrated. The residue was distilled under reduced pressure to give 16.5 g of diethyl (2,6-difluorophenyl)malonate. b.p. 107–109° C. (0.14 mmHg)

reactant | sodium hydride | 8.00 g | [H-].[Na+]
reactant | ethyl malonate | 32.0 g | C(CC(=O)[O-])(=O)OCC
reactant | 1-bromo-2,6-difluorobenzene | 19.3 g | BrC1=C(C=CC=C1F)F | C6H3BrF2
reactant | hydrochloric acid | Cl | ClH
reactant | tert-butyl methyl ether | COC(C)(C)C | C5H12O
solvent | water | O | H2O
solvent | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | diethyl (2,6-difluorophenyl)malonate | 16.5 g | FC1=C(C(=CC=C1)F)C(C(=O)OCC)C(=O)OCC | C13H14F2O4
